*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF2R5ARA331ME61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF2R5ARA331ME61G_20deg-C 1 2

C1 4 2 3.01e-04
C2 5 2 4.00e-06
C3 6 2 8.53e-07
R1 3 4 9.24e-03
R2 4 5 9.05e+00
R3 5 6 2.98e+01
L1 1 3 2.10e-09

.ENDS
*$
